US07737135B2
a) 4-bromo-N-cyclopentyl-2-fluoro-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid and cyclopentanamine.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | cyclopentanamine | C1(CCCC1)N | C5H11N
product | 4-bromo-N-cyclopentyl-2-fluoro-benzamide | BrC1=CC(=C(C(=O)NC2CCCC2)C=C1)F | C12H13BrFNO
